US07723384B2
a) 1-(4-Chlorobutyl)-7,8-dimethoxy-3,4-dihydro-1H-1-benzazepine-2,5-dione
Analogously to Example 1, reaction of 7,8-dimethoxy-3,4-dihydro-1H-1-benzazepine-2,5-dione (1.70 mmol, 0.40 g, preparation according to Arch. Pharm. 1991, 324, 579) and bromo-4-chlorobutane (2.04 mmol, 0.35 g) afforded 0.20 g of the contaminated title compound. The compound is reacted further without purification.

reactant | 7,8-dimethoxy-3,4-dihydro-1H-1-benzazepine-2,5-dione | 1.70 mmol, 0.40 g | COC=1C(=CC2=C(C(CCC(N2)=O)=O)C1)OC | C12H13NO4
reactant | bromo-4-chlorobutane | 2.04 mmol, 0.35 g | BrCCCCCl | C4H8BrCl
product | 1-(4-Chlorobutyl)-7,8-dimethoxy-3,4-dihydro-1H-1-benzazepine-2,5-dione | 0.20 g | ClCCCCN1C(CCC(C2=C1C=C(C(=C2)OC)OC)=O)=O | C16H20ClNO4
